US04107307
6-Phenyl-imidazo[ 1,5-d]-as-triazine-4(3-H)-thione
A suspension of 7.05 gm. of 3-(2-phenyl-4-imidazolylmethylene)dithiocarbazic acid methyl ester in 100 ml. of diphenyl ether is reacted as described in Example 58 giving the desired product, m.p. 210° C.

reactant | 3-(2-phenyl-4-imidazolylmethylene)dithiocarbazic acid methyl ester | CSC(NN=CC=1N=C(NC1)C1=CC=CC=C1)=S | C12H12N4S2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-Phenyl-imidazo[ 1,5-d]-as-triazine-4(3-H)-thione | C1(=CC=CC=C1)C1=NC=C2N1C(NN=C2)=S | C11H8N4S
